US20010018540A1
Preparation Of Dimethyl Malonate (“BIAZZI” Reactor)
The procedure of Example 3 was repeated, but the amount of methyl chloroacetate used was increased to 4.8 mol per liter of reaction volume. In addition, a toluene content of the reaction mixture of 17.1% by weight was set.

reactant | methyl chloroacetate | ClCC(=O)OC | C3H5ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Dimethyl Malonate | C(CC(=O)OC)(=O)OC | C5H8O4
